2199-07-07 06:25:00 Physician Resident Progress Note
Chief Complaint: LE edema, SOB
   24 Hour Events:
   Overnight, pt's O2 requirement increased from 3 to 4L to maintain sats
   in low 90s.  HR stable in 100-120s in Aflutter. Received Kayexelate x 2
   for elevated K.
 EKG - At [**2199-7-6**] 10:48 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics: None
   Infusions: None
   Other ICU medications: Metoprolol 12.5mg PO bid (started this a.m.)
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2199-7-7**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35.4
C (95.8
   HR: 109 (107 - 123) bpm
   BP: 110/74(81) {87/66(70) - 126/82(92)} mmHg
   RR: 26 (16 - 31) insp/min
   SpO2: 90%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 59 Inch
             Total In:
                                                                  2,105 mL
                                                                    161 mL
   PO:
                                                                    230 mL
             TF:
   IVF:
   161 mL
   Blood products:
   Total out:
                                                                    475 mL
                                                                    415 mL
   Urine:
                                                                    125 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,630 mL
                                                                   -255 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 90%
   Physical Examination
   Gen: alert, awake, sitting up in bed eating breakfast, mildly
   tachypneic, NAD
   HEENT: mm slightly dry, EOMI grossly, PERRL, NCAT, telangiectasias on
   malar area of face
   CV: RRR, no murmurs/rubs/gallops, S1 S2 present
   LUNGS: rhonchi over R lung fields posteriorly, crackles/rhonchi over L
   lung fields posteriorly
   ABD: soft, NTND, bs+, +hepatomegaly, no palpable splenomegaly
   EXT: 1+pitting edema LE bilaterally, diffuse macular rash from knees->
   (improved today, less erythematous), no cyanosis/ clubbing
   Labs / Radiology
   213 mg/dL
   147 mg/dL
   9.2 mg/dL
   17 mEq/L
   107 mEq/L
   5.5 mEq/L
   144 mEq/L
   7.4 K/uL
   9.0 g/dL
   26.6 %
   513 K/uL
     [image002.jpg]
   Anion Gap = 20
   CXR [**7-6**] Final:  mild increase in cardiac sillouhette, diffuse bilateral
   symmetrical alveolar opacities, almost in all lung fields, consistent
   with diffuse alveolar hemorrhage; fibrocalficific changes in the apices
   consistent with old granulomatous disease
                             [**2199-7-6**]  11:05 PM
                             [**2199-7-7**]  04:46 AM
   WBC
   7.4
   Hct
   31.0
   26.6
   Plt
   543
   513
   Cr
   9.7
   9.2
   Glucose
   219
   213
   Other labs: PT / PTT / INR:16.6/30.0/1.5, Ca++:6.3 mg/dL, Mg++:2.0
   mg/dL, PO4:9.9 mg/dL****
   Assessment and Plan
   Assessment: This is a 60 year-old male with a distant history of
   nephrolithiasis, no other chronic medical problems who presents with
   lower extremity edema and SOB.
   .
   Plan:
   .
   # Respiratory distress: Most likely secondary to diffuse alveolar
   hemorrhage confirmed on bronchoscopy [**7-6**]. Vasculitis is suspected,
   particularly a pulmonary-renal syndrome (e.g. Wegener's (granulomas),
   Goodpasture's, microscopic polyangiitis, lupus, PAN) given associated
   acute renal failure. However, lower on the differential are ARDS, TRALI
   with bilateral pulmonary infiltrates on CXR. Pt currently clinically
   tachypneic. Received a dose of Cytoxan and Solumedrol at OSH, but
   unclear if Cytoxan was PO or IV, and if pt was dosed monthly or daily.
   - Continue supplemental O2 PRN
   - Albuterol nebs PRN
   - CXR
s as needed
   - Type and screen, cross match x 2 units; threshold to transfuse hct
   <21, unless clinically unstable
   - Blood consent
   - Consult Renal and Rheum in a.m.
   - Will hold off on resuming Cytoxan for now as unclear what dose pt
   actually got at OSH. Will await Renal and Rheum recs. Pt may eventually
   get renal biopsy
   - Will continue Solumedrol 1g IV daily
   - F/u on Renal serology and BAL results from OSH
   - Will check Crits q8  for now
   .
   # Acute renal failure: Ddx includes most likely pulmonary renal
   syndromes, such as Wegener's (granulomas), Goodpasture's, microscopic
   polyangiitis, lupus, PAN. BUN/Cr on discharge was 126/9.6, K 5.8. Fits
   nicely into pulm-renal picture above. Nephritic picture with RBC casts.
   Denies epistaxis. However, apart from pulmonary association, ddx for
   acute renal failure with nephritis includes PSGN, lupus nephritis, etc.
   ESR elevated >140, consistent with an autoimmune disorder.
   Age-appropriate for Wegener's.  Also consider DIC.
   - F/u on u/a, urine lytes, urine sediment
   - F/u on pending renal labs from OSH -> C3/C4, [**Doctor First Name 1205**], anti-GBM, anti-DNA,
   cryglobulins, ANCA, HepB/C serology
   - Will re-check renal labs above here as well (C3, C4, etc.)
   - Consult Renal here
   - Foley in place
   - Avoid nephrotoxic agents
   - Replete lytes PRN
   - Will check q8 lytes for now
   - Start Sevelemer in a.m. with meals for elevated Phos.
   .
   # Tachycardia: ?Aflutter on EKG at OSH. Also present in several limb
   leads on admission EKG here. Currently asymptomatic with rate in 120s.
   Can be secondary to underlying structural heart disease. Also may be
   secondary to large volume shifts (retaining total body fluid with renal
   failure, with large volume load putting stress on atria.)
   - F/u on TSH
   - Surface ECHO in a.m. today
   - Starting Lopressor 12.5mg PO bid this a.m. for rate control.
   .
   # LE edema: likely secondary to renal failure above. Would hold off on
   diuresis given ARF.
   .
   # Anemia: likely secondary to pulmonary hemorrhage. Likely related to a
   combination of chronic inflammatory disease, renal failure, and diffuse
   alveolar hemorrhage. No baseline Crit available.
   - Check Crits q8
   - Type and screen, cross-matched
   - Blood consent obtained
   .
   # FEN: Regular renal-cardiac diet for now. Will switch back to NPO if
   respiratory status worsens anticipating intubation. Will replete lytes
   PRN.  Kayexelate x 1 for high K, Sevelamer in a.m. for high phos.
   .
   # Access: 2 PIVs
   .
   # PPx: Pneumoboots, Pantoprazole PO daily, RISS, bowel regimen
   .
   # Code: FULL, confirmed with pt with son present ([**2199-7-6**])
   .
   # Dispo: ICU at least overnight for close monitoring of hemodynamic and
   pulmonary status.
   .
   # Comm: HCP [**Name (NI) 2667**] [**Name (NI) 3375**], [**First Name3 (LF) **] [**Telephone/Fax (1) 4100**]; [**First Name8 (NamePattern2) **] [**Known lastname 3375**] [**Telephone/Fax (1) 4101**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-7-7**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Addendum
   Anti-GBM test sent to Specialty Laboratories, 1[**Telephone/Fax (1) 4121**], #4 to
   connect to lab. They will run this particular study on Tuesday, [**7-9**]^th, and result may become available [**7-10**]^th-15^th.
   [**First Name8 (NamePattern2) 3934**] [**Doctor Last Name 3935**] PGY-1
   ------ Protected Section Addendum Entered By:[**Name (NI) 3934**] [**Name8 (MD) 3935**], MD
   on:[**2199-7-7**] 19:28 ------

2199-07-07 09:41:00 Physician Attending Progress Note
Chief Complaint: ARF, alveolar hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 M PMH former tobacco use, nephrolithiasis transferred from [**Hospital 4109**] after experiencing SOB, edema for 2-3 weeks.  There he was
   found to have hct 14.1%, ARF with RBC ?casts and proteinuria, ESR > 140
   and alveolar hemorrhage on BAL.  He was started on 1 g solumedrol and
   cytoxan 120 mg there.  He was transferred for consideration of
   plasmapheresis.
   24 Hour Events:
 EKG - At [**2199-7-6**] 10:48 PM
   -Tachycardic to low 100s with EKG concerning for A.flutter
   -Hyperkalemic requiring kayexalate
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   RISS
   Solumedrol 1 g daily
   Albuterol Q6H
   Atrovent Q6H
   Protonix
   Colace
   Lopressor 12.5 mg [**Hospital1 **]
   Renagel
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Cough, No hemoptysis
   Gastrointestinal: Nausea
   Genitourinary: Foley
   Integumentary (skin): Rash, Diffuse maculopapular
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2199-7-7**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35.3
C (95.6
   HR: 109 (106 - 123) bpm
   BP: 140/88(99) {87/66(70) - 140/88(99)} mmHg
   RR: 30 (16 - 31) insp/min
   SpO2: 93%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 59 Inch
             Total In:
                                                                  2,105 mL
                                                                    426 mL
   PO:
                                                                    230 mL
                                                                    240 mL
   TF:
   IVF:
   186 mL
   Blood products:
   Total out:
                                                                    475 mL
                                                                    495 mL
   Urine:
                                                                    125 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,630 mL
                                                                    -69 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 4 L
   SpO2: 91%
   Physical Examination
   General Appearance: No acute distress, Tachypneic
   Cardiovascular: (S1: Normal), (S2: No(t) Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bilateral crackles.  Rhonchorous:
   Bilateral )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: None.
   Skin:  Few petechiae at feet. MacPap rash resolving
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   513 K/uL
   213 mg/dL
   9.2 mg/dL
   17 mEq/L
   5.5 mEq/L
   147 mg/dL
   107 mEq/L
   144 mEq/L
   26.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2199-7-6**]  11:05 PM
                             [**2199-7-7**]  04:46 AM
   WBC
   7.4
   Hct
   31.0
   26.6
   Plt
   543
   513
   Cr
   9.7
   9.2
   Glucose
   219
   213
   Other labs: PT / PTT / INR:16.6/30.0/1.5, Ca++:6.3 mg/dL, Mg++:2.0
   mg/dL, PO4:9.9 mg/dL
   Fluid analysis / Other labs: AG 20
   Imaging: CXR [**7-6**] - Diffuse bilateral opacities with alveolar and
   interstitial components.  Normal cardiomediastinal contours.  Minimal
   bilateral costophrenic blunting.
   Microbiology: None.
   Assessment and Plan: 60 M admitted with pulmonary-renal syndrome.  DDx:
   Wegener
s granulomatosis, MPA, Goodpasteur
s, lupus, post-strep GN with
   DIC (less likely).  He is currently clinically stable and has been
   started on solumedrol and cytoxan.
   1)       Pulmonary-renal syndrome
 ANCA, anti-GBM, [**Doctor First Name 1205**], anti-dsDNA,
   anti-Sm, anti-phospholipid Ab, C3, C4, cryoglobulins, hepatitis
   serologies pending.  Will consult renal for cytoxan dosing,
   consideration of plasmapheresis and renal biopsy.  Supplemental O2 as
   needed for SpO2 > 90%.  Continue solumedrol 1 g daily.
   2)       Anemia
 Likely alveolar hemorrhage.  Will rule out
   hemolysis.  Trend Q8H until stable.
   3)       Renal failure
 No acute indication for RRT at this point.
   Does have an AG metabolic acidosis.  Hyperkalemia currently
   controllable with medications.  No EKG changes.  Renagel.  Follow
   electrolytes.
   4)       Atrial flutter
 Start low-dose beta-blockade.  TSH pending.
   TTE pending.
   MICU Attending Addendum
   Pt seen with fellow and examined. Met with pt and family to review
   situation. Would add and emphasize the following to Dr [**Last Name (STitle) **]
s notes.
   On exam
   Somnelent, but arousable, RR bilayteral crackles, petchiae on feet and
   alos right forearm.
   ABG 7.31/37/67
   BUN 147/ Cr 9.6
   CXR: diffsue bilateral interstitial and alveolar infiltrates
   60 yr old man with subacute lethargy x weeks tx from OSH with pulmonary
   and renal failure quite concerning for vasculitis.
   Agree with plan for empiric Rx with Solumedrol at 1 GM and Cytoxan.
   Role of plasmapheresis without clear diagnosis is challenging. Will
   consult with Renal collegues on possibility of a renal biopsy to aid in
   diagnosis. Additionally he is moving towards dialysis, need to closely
   watch K, renally dose all meds.  His resp status is tenusous due to
   hypoxemia as well as met acidosis and uremic encephalopathy- may
   require intubation for support
 would likely favor this over NIPPV
   given likely duration.
   Discussed with son who is HCP and updated.
   ICU Care
   Nutrition: Renal, cardiac
   Glycemic Control:  Regular insulin sliding scale
   Lines: Peripheral IVs
   20 Gauge - [**2199-7-7**] 12:00 AM
   18 Gauge - [**2199-7-7**] 08:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Protonix
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code.  Son, [**Name (NI) 2667**], is HCP.
   Disposition :Remains in ICU.
   Total time spent:  Critically Ill 50 min
   ------ Protected Section ------
   MICU Attending Addendum
   Updated note on events from [**2199-7-7**]. In the course of the afternoon, I
   spent over 2 hours working with both the renal consultation team and Dr
   [**Last Name (STitle) 4084**] and the Plasmapheresis team determining indication and timing of
   pheresis for possible anti GBM. We were able to update family, call in
   pheresis team, and place pheresis catheter all to facilitate. Pt with
   progressive hypoxemia and on NRB
 ongoing frequent labs to assess HCT,
   also borderline indication for HD due to progressive encephalopathy,
   boerdeline hyperK and acidosis.
   Time Spent 120 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 1876**] [**Last Name (NamePattern1) 1877**], MD
   on:[**2199-7-8**] 08:22 ------

2199-07-08 09:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress/hypoxemia
   HPI:
   24 Hour Events:
 EKG - At [**2199-7-7**] 02:00 PM
 DIALYSIS CATHETER - START [**2199-7-7**] 06:48 PM
   Renal consultation concurred with Pulmonary-Renal syndrome.
   Plasmaphoresis initiated last PM via newly placed dialysis catheter,
   anticipating 5 days of treatment.  Remains on cortocosteroids.
   Remains non-oliguric.  Renal biopsy recommended, and planned for today.
   Denies increased dyspnea, but remains with oxygen requirement.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-7-8**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.3
C (95.5
   HR: 81 (81 - 133) bpm
   BP: 118/73(85) {104/53(66) - 142/88(102)} mmHg
   RR: 24 (22 - 29) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 59 Inch
             Total In:
                                                                    902 mL
                                                                    186 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    662 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                    690 mL
   Urine:
                                                                  1,330 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -429 mL
                                                                   -504 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.31/37/67/22/-6
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic,
   mildly disshevled
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   355 K/uL
   176 mg/dL
   8.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   149 mg/dL
   108 mEq/L
   150 mEq/L
   22.6 %
   8.1 K/uL
        [image002.jpg]
                             [**2199-7-6**]  11:05 PM
                             [**2199-7-7**]  04:46 AM
                             [**2199-7-7**]  12:46 PM
                             [**2199-7-7**]  01:36 PM
                             [**2199-7-7**]  11:04 PM
                             [**2199-7-8**]  04:02 AM
                             [**2199-7-8**]  08:13 AM
   WBC
   7.4
   8.1
   Hct
   31.0
   26.6
   27.1
   24.4
   22.8
   22.6
   Plt
   543
   513
   355
   Cr
   9.7
   9.2
   9.6
   8.5
   8.6
   TCO2
   20
   Glucose
   [**Telephone/Fax (3) 4151**]93
   176
   Other labs: PT / PTT / INR:16.6/29.1/1.5, Alk Phos / T Bili:/0.5,
   Lactic Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:5.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:9.5 mg/dL
   Imaging: CXR: ([**2199-7-8**]) diffuse bilateral alveolar infiltrates,
   predominantly basilar.  Right IJ catheter position acceptable.  No
   significant overall change compared to [**2199-7-7**].
   Assessment and Plan
   60 yom now with Pulmonary-Renal syndrome.
   RESPIRATORY DISTRESS -- attributed to acidemia (renal failure) and
   hypoxemia in setting of pulmonary infiltrates.  Stable, but still with
   diffuse infiltrates and oxygen requirement.
   HYPOXEMIA -- attributed to pulmonary infiltrates.  Monitor SaO2,
   supplimental O2 to maintain SaO2 >90%.
   PULMONARY INFILTRATES -- attributed to alveolar hemorrhage.  Monotor
   SaO2.
   RENAL FAILURE -- acute, attributed to Pulmonary-Renal syndrome.  Renal
   consult prepared to move to dialysis when indicated.  Monitor urine
   output, BUN, Creatitine.
   PULMONARY-RENAL SYNDROME -- evaluation and diagnostics pending.
   Continue steroids and plasmaphoresis.
   HYPOCALCEMIA -- iv replacement Rx, consider constant infusion.
   FLUIDS -- limit iv fluids intake.
   HYPERPHOSPHATEMIA -- start phosphate binder.
   NUTRITION -- NPO pending evaluation
   ANEMIA -- progressive, attributed to underlying process, and possible
   contribution from RIJ central line placement.  Transfuse to Hct >21.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-7-7**] 12:00 AM
   18 Gauge - [**2199-7-7**] 08:32 AM
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2199-07-08 13:54:00 Physician Resident Progress Note
Chief Complaint: LE edema, SOB
   24 Hour Events:
   Overnight the patient remained stable, but continuing to require O2 by
   NC and facemask.  HR down to 80s with lopressor but remains in
   aflutter.  This am patient only c/o hunger.
 EKG - At [**2199-7-7**] 02:00 PM
 DIALYSIS CATHETER - START [**2199-7-7**] 06:48 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-8**] 01:53 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.2
C (95.3
   HR: 94 (72 - 133) bpm
   BP: 109/58(70) {104/53(66) - 142/88(102)} mmHg
   RR: 25 (18 - 29) insp/min
   SpO2: 88%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 59 Inch
           Total In:
                                                                    902 mL
                                                                  1,042 mL
   PO:
                                                                    240 mL
           TF:
   IVF:
                                                                    662 mL
                                                                    485 mL
   Blood products:
   557 mL
   Total out:
                                                                  1,330 mL
                                                                  1,080 mL
   Urine:
                                                                  1,330 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -429 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: 7.31/37/67/22/-6
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bilateral, almost [**11-28**]
   way up lungs posteriorly)
   Extremities: Right: 1+ pitting, Left: 1+ pitting,, diffuse rash below
   knees
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   355 K/uL
   7.6 g/dL
   176 mg/dL
   8.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   149 mg/dL
   108 mEq/L
   150 mEq/L
   22.6 %
   8.1 K/uL
        [image002.jpg]
                             [**2199-7-6**]  11:05 PM
                             [**2199-7-7**]  04:46 AM
                             [**2199-7-7**]  12:46 PM
                             [**2199-7-7**]  01:36 PM
                             [**2199-7-7**]  11:04 PM
                             [**2199-7-8**]  04:02 AM
                             [**2199-7-8**]  08:13 AM
   WBC
   7.4
   8.1
   Hct
   31.0
   26.6
   27.1
   24.4
   22.8
   22.6
   Plt
   543
   513
   355
   Cr
   9.7
   9.2
   9.6
   8.5
   8.6
   TCO2
   20
   Glucose
   [**Telephone/Fax (3) 4151**]93
   176
   Other labs: PT / PTT / INR:16.6/29.1/1.5, Alk Phos / T Bili:/0.5,
   Lactic Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:5.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:9.5 mg/dL
   Assessment and Plan
   Assessment: This is a 60 year-old male with a distant history of
   nephrolithiasis, no other chronic medical problems who presents with
   lower extremity edema and SOB.
   Plan:
   # Respiratory distress: Most likely secondary to diffuse alveolar
   hemorrhage confirmed on bronchoscopy [**7-6**]. Vasculitis is suspected,
   particularly a pulmonary-renal syndrome (e.g. Wegener's (granulomas),
   Goodpasture's, microscopic polyangiitis, lupus, PAN) given associated
   acute renal failure. However, lower on the differential are ARDS, TRALI
   with bilateral pulmonary infiltrates on CXR. Pt currently clinically
   tachypneic. Received a dose of Cytoxan and Solumedrol at OSH, but
   unclear if Cytoxan was PO or IV, and if pt was dosed monthly or daily.
   - follow HCT q6h to monitor for alveolar bleeding.  Concern given
   recent HCT drop.   Transfusion threshold is HCT<21
   - Continue supplemental O2 PRN.  Maintain O2 sat >90%.
   - Figure out exact 02 requirement (patient on facemask, not always
   wearing it)
   - Albuterol nebs PRN
   - repeat CXR
   - F/u on BAL results from OSH
   - Continue to keep patient NPO due to tentative respiratory status (and
   renal biopsy).
   (see t'ment plan for presumed Wegener's under acute renal failure)
   # Acute renal failure: Ddx includes most likely pulmonary renal
   syndromes, such as Wegener's (granulomas), Goodpasture's, microscopic
   polyangiitis, lupus, PAN. BUN/Cr on was 126/9.6, K 5.8. Nephritic
   picture with RBC casts. However, apart from pulmonary association, ddx
   for acute renal failure with nephritis includes PSGN, lupus nephritis,
   etc. ESR elevated >140, consistent with an autoimmune disorder.
   Age-appropriate for Wegener's.  Also consider DIC.
   - Renal biopsy today, FFP on call due to INR 1.5
   - For presumed Wegeners, started Plasmapheresis (firs tt'ment  last
   night, will be QOD x 5 treatments)
   - Continue Solumedrol 1g IV daily
   - F/u on pending renal labs from OSH -> C3/C4, [**Doctor First Name 1205**], anti-GBM, anti-DNA,
   cryglobulins, ANCA, HepB/C serology
   - Will re-check renal labs above here as well (C3, C4, etc.)
   - Foley in place
   - Avoid nephrotoxic agents
   - Replete lytes PRN
   - Will check q8 lytes for now
   - Continue  Sevelemer in a.m. with meals for elevated Phos.
    - Renal c/s recommends also starting Amphagel (phosphate binder) 30cc
   po tid for 2-3 days for elevated Phos.
   #Hypernatremia: NA+ today 150, up from 147, likely [**12-29**] lack of access
   to free water
   -Replace w/ D5NS
   #Hypocalcemia: [**12-29**] plasmapheresis (uses citrate which acts as Ca2+
   binder)
   -Replace Ca2+
   # Tachycardia: Aflutter on EKG.  Until yesterday, was asymptomatic but
   rate in 120s. Can be secondary to underlying structural heart disease.
   Also may be secondary to large volume shifts (retaining total body
   fluid with renal failure, with large volume load putting stress on
   atria.)
   - F/u on TSH
   - TTE today
   - Lopressor titrated up to 50 mg PO tid with good rate control (HR in
   80s).
   .
   # LE edema: likely secondary to renal failure above. Would hold off on
   diuresis given ARF.
   .
   # Anemia: likely secondary to pulmonary hemorrhage. Likely related to a
   combination of chronic inflammatory disease, renal failure, and diffuse
   alveolar hemorrhage. No baseline Crit available.
   - Check HCT q6
   - Type and screen, cross-matched
   - Blood consent obtained
   .
   # FEN: NPO for worsening respiratory status, anticipating intubation.
   Will replete lytes PRN.
   # Access: 2 PIVs
   .
   # PPx: Pneumoboots, Pantoprazole PO daily, RISS, bowel regimen
   .
   # Code: FULL, confirmed with pt with son present ([**2199-7-6**])
   .
   # Dispo: ICU at least overnight for close monitoring of hemodynamic and
   pulmonary status.
   .
   # Comm: HCP [**Name (NI) 2667**] [**Name (NI) 3375**], [**First Name3 (LF) **] [**Telephone/Fax (1) 4100**]; [**First Name8 (NamePattern2) **] [**Known lastname 3375**] [**Telephone/Fax (1) 4101**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-7-7**] 12:00 AM
   18 Gauge - [**2199-7-7**] 08:32 AM
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-07-09 07:39:00 Physician Resident Progress Note
Chief Complaint: 60 y/o male who presented with anemia, hypoxia,
   bilateral pulmonary hemmorhage and acute renal failure.  Being treated
   for presumed Wegeners.
   24 Hour Events:
   Continues to have increasing 02 requirement, on 6L and facemask to keep
   02 >90%.  Yesterday he had a renal biopsy, TTE, given d5W for
   hypernatremia and seen by rheumatology.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2199-7-8**] 10:03 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-9**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96.1
   HR: 89 (72 - 133) bpm
   BP: 106/59(69) {98/51(65) - 125/76(85)} mmHg
   RR: 23 (18 - 26) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 59 Inch
             Total In:
                                                                  2,462 mL
                                                                    343 mL
   PO:
             TF:
   IVF:
                                                                  1,905 mL
                                                                    343 mL
   Blood products:
                                                                    557 mL
   Total out:
                                                                  1,405 mL
                                                                    440 mL
   Urine:
                                                                  1,405 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,057 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   261 K/uL
   6.9 g/dL
   223 mg/dL
   7.6 mg/dL
   21 mEq/L
   3.9 mEq/L
   155 mg/dL
   101 mEq/L
   141 mEq/L
   21.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2199-7-6**]  11:05 PM
                             [**2199-7-7**]  04:46 AM
                             [**2199-7-7**]  12:46 PM
                             [**2199-7-7**]  01:36 PM
                             [**2199-7-7**]  11:04 PM
                             [**2199-7-8**]  04:02 AM
                             [**2199-7-8**]  08:13 AM
                             [**2199-7-8**]  02:46 PM
                             [**2199-7-8**]  09:30 PM
                             [**2199-7-9**]  04:25 AM
   WBC
   7.4
   8.1
   5.4
   Hct
   31.0
   26.6
   27.1
   24.4
   22.8
   22.6
   22.0
   21.9
   21.1
   Plt
   543
   513
   355
   261
   Cr
   9.7
   9.2
   9.6
   8.5
   8.6
   8.1
   7.6
   TCO2
   20
   Glucose
   [**Telephone/Fax (3) 4151**]93
   176
   156
   223
   Other labs: PT / PTT / INR:16.0/27.9/1.4, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:5.4 mg/dL,
   Mg++:1.7 mg/dL, PO4:10.0 mg/dL
   Assessment and Plan
   Assessment: This is a 60 year-old male with a distant history of
   nephrolithiasis, no other chronic medical problems who presents with
   lower extremity edema and SOB.
    Plan:
   # Respiratory distress: Requiring 6L w/ humidification, 93-98%.  Most
   likely secondary to diffuse alveolar hemorrhage confirmed on
   bronchoscopy [**7-6**]. Vasculitis is suspected, particularly a
   pulmonary-renal syndrome (e.g. Wegener's (granulomas), Goodpasture's,
   microscopic polyangiitis, lupus, PAN) given associated acute renal
   failure. However, lower on the differential are ARDS, TRALI with
   bilateral pulmonary infiltrates on CXR. Pt currently clinically
   tachypneic. Received a dose of Cytoxan and Solumedrol at OSH, but
   unclear if Cytoxan was PO or IV, and if pt was dosed monthly or daily.
    - follow HCT q6h to monitor for alveolar bleeding.  HCT continues to
   slowly drop, likely a slow bleed.
   - Continue supplemental O2 PRN.  Maintain O2 sat >90%.
   - Albuterol nebs PRN
    - CXR daily
   - F/u on BAL results from OSH
   - Patient now tolerating PO, though still concern for respiratory
   status
    - treating treating the underlying disease (presumed Wegener's):
    -Plasmapheresis, dose [**1-1**] today (QOD)
    -Solumedrol 1g IV daily (will change to prednisone tomorrow per
   rheumatology)
    -Cyclophosphamide 140mg w/mesna for cystitis prophylaxis
   # Acute renal failure: Monitoring for need for dialysis, has line just
   in case.  Creatinine down to 7.6, BUN up to 155.  No signs of platelet
   dysfunction yet, mental status ok.  BUN continues to increase, but BUN
   often stays elevated in acute renal failure after the kidneys have
   started to improve, also the patient is on high dose steroids which can
   increase BUN.  As a note, plasmapheresis in cases of severe Wegeners
   has been shown to improve kidney outcomes, though not mortality.
   - Renal biopsy yesterday, awaiting results.  Monitor for bleeding at
   site given possible platelet dysfunction.
   - treating underlying cause (likely Wegener's).
   - F/u on pending renal labs from OSH -> C3/C4-negative, Hep C VL
   negative, pending: [**Doctor First Name 1205**], anti-GBM, anti-DNA, cryglobulins, ANCA, HepB
   serology
   - Will re-check renal labs above here as well (C3, C4, etc.)
   - Foley in place , strict I&O, q8 lytes .  Will try to maintain
   100cc/hr urine output for prevention of hemorrhagic cystitis.
   -On Sevelamer, Amphagel (day [**12-30**]) for hyperphos
   -          Avoid nephrotoxic agents
   -          D/C Bactrim due to renal function, patient should be
   discharged on Atovaqone.
   #Hypernatremia:likely secondary to lack of access to water,on D5W NA+
   today 141, down from 150.
   -Now patient is taking PO, D/C D5W.
   -if needed, restart fluids to maintain UOP 100cc/hr (to prevent hem.
   cystitis while on cytoxan)
   #Hypocalcemia: [**12-29**] plasmapheresis (uses citrate which acts as Ca2+
   binder)
   -Replace Ca2+ (given 4g this am),
   -lytes q6hrs
   -EKG
   # Tachycardia: Aflutter on EKG.  Asymptomatic, rate well controlled
   overnight. ECHO yesterday showed mild LV septal [**Last Name (LF) 4197**], [**First Name3 (LF) 300**]
   45-50%.  Likely secondary to large volume shifts (retaining total body
   fluid with renal failure, with large volume load putting stress on
   atria.)
   - Continue lopressor titrated up to 50 mg PO tid with good rate control
   (HR in 80s).
   # LE edema: likely secondary to renal failure above. Would hold off on
   diuresis given ARF.
   # Anemia: likely secondary to pulmonary hemorrhage. Likely related to a
   combination of chronic inflammatory disease, renal failure, and diffuse
   alveolar hemorrhage. No baseline Crit available.
    - Check HCT q6
   - given HCT [**Last Name (LF) 4198**], [**First Name3 (LF) 178**] give 1unit today
   - Type and screen, cross-matched
   -          Blood consent obtained
   -          Guaiac all stools
   # FEN: Taking PO. Will replete lytes PRN.
   # Access: 2 PIVs
   # PPx: Pneumoboots, Pantoprazole PO daily, RISS, bowel regimen
   # Code: FULL, confirmed with pt with son present ([**2199-7-6**])
   # Dispo: ICU at least overnight for close monitoring of hemodynamic and
   pulmonary status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-7-7**] 12:00 AM
   18 Gauge - [**2199-7-7**] 08:32 AM
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-07-09 11:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia
   HPI:
   24 Hour Events:
   Overall, no significant change in supplimental oxygen requirement.
   Overall, appears much more comfortable.
   Able to eat.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2199-7-8**] 10:03 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-7-9**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.2
C (95.4
   HR: 90 (72 - 133) bpm
   BP: 115/65(75) {98/51(65) - 125/76(84)} mmHg
   RR: 22 (19 - 26) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 59 Inch
             Total In:
                                                                  2,462 mL
                                                                    443 mL
   PO:
             TF:
   IVF:
                                                                  1,905 mL
                                                                    443 mL
   Blood products:
                                                                    557 mL
   Total out:
                                                                  1,405 mL
                                                                    485 mL
   Urine:
                                                                  1,405 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,057 mL
                                                                    -42 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   6.9 g/dL
   261 K/uL
   223 mg/dL
   7.6 mg/dL
   21 mEq/L
   3.9 mEq/L
   155 mg/dL
   101 mEq/L
   141 mEq/L
   21.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2199-7-6**]  11:05 PM
                             [**2199-7-7**]  04:46 AM
                             [**2199-7-7**]  12:46 PM
                             [**2199-7-7**]  01:36 PM
                             [**2199-7-7**]  11:04 PM
                             [**2199-7-8**]  04:02 AM
                             [**2199-7-8**]  08:13 AM
                             [**2199-7-8**]  02:46 PM
                             [**2199-7-8**]  09:30 PM
                             [**2199-7-9**]  04:25 AM
   WBC
   7.4
   8.1
   5.4
   Hct
   31.0
   26.6
   27.1
   24.4
   22.8
   22.6
   22.0
   21.9
   21.1
   Plt
   543
   513
   355
   261
   Cr
   9.7
   9.2
   9.6
   8.5
   8.6
   8.1
   7.6
   TCO2
   20
   Glucose
   [**Telephone/Fax (3) 4151**]93
   176
   156
   223
   Other labs: PT / PTT / INR:16.0/27.9/1.4, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:5.4 mg/dL,
   Mg++:1.7 mg/dL, PO4:10.0 mg/dL
   Imaging: CXR ([**2199-7-9**]) diffuse bilateral infiltrates, predominantly
   bibasilar, unchanged.
   Assessment and Plan
   PULMONARY-RENAL SYNDROME -- probable Wegener's Granulomatosis vs. GBM
   Disease.  Continue steroids & cytoxan, plasmaphoresis empirically.
   Await renal Bx results and serologies.
   RESPRIATORY DISTRESS -- diffuse parenchymal infiltrates, attributed to
   hemorrhage.  No significant change.  Monitor RR, SaO2, CXR.
   RENAL FAILURE -- non-oliguric; gradually improving creatitine.  Monitor
   BUN, creatitine, UO.
   NUTRITIONAL SUPPORT -- advance PO.
   FLUIDS -- provide adequate urine output (cytoxan)
   HYPERGLYCEMIA -- promoted by steroids.
   A-FLUTTER -- good rate control.  Continue meds.
   ANEMIA -- slow reduction.  Blood loss due to pulmonary hemorrhage and
   renal bx likely contributing.  Transfuse to >21
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-7-7**] 12:00 AM
   18 Gauge - [**2199-7-7**] 08:32 AM
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2199-07-10 06:45:00 Physician Resident Progress Note
Chief Complaint: 60 yo male with pulmonary hemorrhage, ARF, anemia and
   renal biopsy c/w Wegeners.
   24 Hour Events:
   O/N required  6L 02 with 40%FIo\02 facemask to keep 02 sat >90. Got
   pheresis yesterday, solumedrom and cyclophosphamide.  No hematuria.
   Talked to renal about biopsy, c/w Wegners.  Has been on IVF to keep uop
   >100, successfully.  Tolerating PO.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2199-7-8**] 10:03 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-10**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36
C (96.8
   HR: 99 (75 - 130) bpm
   BP: 115/68(78) {98/49(62) - 127/69(80)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 68.4 kg
   Height: 69 Inch
             Total In:
                                                                  2,475 mL
                                                                    650 mL
   PO:
             TF:
   IVF:
                                                                  2,100 mL
                                                                    650 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,360 mL
                                                                    260 mL
   Urine:
                                                                  1,360 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,115 mL
                                                                    390 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   261 K/uL
   6.9 g/dL
   172 mg/dL
   7.1 mg/dL
   25 mEq/L
   3.6 mEq/L
   149 mg/dL
   101 mEq/L
   145 mEq/L
   22.4 %
   5.4 K/uL
        [image002.jpg]
                             [**2199-7-7**]  01:36 PM
                             [**2199-7-7**]  11:04 PM
                             [**2199-7-8**]  04:02 AM
                             [**2199-7-8**]  08:13 AM
                             [**2199-7-8**]  02:46 PM
                             [**2199-7-8**]  09:30 PM
                             [**2199-7-9**]  04:25 AM
                             [**2199-7-9**]  01:17 PM
                             [**2199-7-9**]  09:20 PM
                             [**2199-7-10**]  01:30 AM
   WBC
   8.1
   5.4
   Hct
   24.4
   22.8
   22.6
   22.0
   21.9
   21.1
   20.9
   22.7
   22.4
   Plt
   355
   261
   Cr
   8.5
   8.6
   8.1
   7.6
   8.1
   7.4
   7.1
   TCO2
   20
   Glucose
   293
   176
   156
   223
   195
   229
   172
   Other labs: PT / PTT / INR:16.0/27.9/1.4, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
   Assessment: This is a 60 year-old male with a distant history of
   nephrolithiasis, no other chronic medical problems who presents with
   lower extremity edema and SOB.
    Plan:
    # Respiratory distress: Requiring 6L NC and 40% Fio2 facemask,
   93-98%.  Most likely secondary to diffuse alveolar hemorrhage confirmed
   on bronchoscopy [**7-6**]. Vasculitis is suspected, particularly a
   pulmonary-renal syndrome (e.g. Wegener's (granulomas), Goodpasture's,
   microscopic polyangiitis, lupus, PAN) given associated acute renal
   failure. However, lower on the differential are ARDS, TRALI with
   bilateral pulmonary infiltrates on CXR. Pt currently clinically
   tachypneic.
    - follow HCT q6h to monitor for alveolar bleeding.  HCT continues to
   slowly drop, but increased with 1unit yesterday.
   - Continue supplemental O2 PRN.  Maintain O2 sat >90%.
   - Albuterol nebs PRN
    - CXR daily
   - F/u on BAL results from OSH
    - Patient now tolerating PO, though still concern for respiratory
   status
    - treating treating the underlying disease (presumed Wegener's):
   -Plasmapheresis, dose [**1-1**] yesterday (QOD)
   -Solumedrol 1g IV daily, will ask Rheumatology for recommended
   prednisone dose
   -Cyclophosphamide 140mg w/mesna for cystitis prophylaxis, has had 4
   doses thus far.
   # Acute renal failure: Monitoring for need for dialysis, has line just
   in case.  Creatinine down to 7 down to 7.1.  BUN peaked at 160 now,
   149.  No signs of platelet dysfunction yet, mental status ok.  Renal
   will give his kidneys about 48 more hours to turn around before
   dialyzing.  As a note, plasmapheresis in cases of severe Wegeners has
   been shown to improve kidney outcomes, though not mortality.
    - Renal biopsy yesterday: per renal, patient with cresenteric
   glomerulosclerosis but more cellular glomeruli than sclerotic giving
   hope for return on.  Monitor for bleeding at site given possible
   platelet dysfunction.
   - treating underlying cause (likely Wegener's).
   - F/u on pending renal labs from OSH -> C3/C4-negative, Hep C VL
   negative, Hep B negative. pending: [**Doctor First Name 1205**], anti-GBM, anti-DNA,
   cryglobulins, ANCA.
   - Will re-check renal labs above here as well (C3, C4, etc.)
   - Foley in place , strict I&O, q8 lytes .  Requiring 1/2NS @ 150 to
   maintain 100cc/hr urine output for prevention of hemorrhagic cystitis.
    -On Sevelamer, Amphagel (day [**1-28**]) for hyperphos
   -          Avoid nephrotoxic agents
   -          D/C Bactrim yesterday due to renal function, patient now on
   Atovaqone for PCP [**Name Initial (PRE) 1374**].
   #Hypernatremia:likely secondary to lack of access to water,resolved
   yesterday with D51/2.
    #Hypocalcemia: [**12-29**] plasmapheresis (uses citrate which acts as Ca2+
   binder)
   -given 6g IV Ca yesterday, plus more during pheresis
   -follow ionized Ca, more accurate given citrate used in pheresis.
   -on SS replacement.
   -EKG unchanged
   # Tachycardia: Aflutter on EKG.  Asymptomatic, rate well controlled
   overnight. ECHO yesterday showed mild LV septal [**Last Name (LF) 4197**], [**First Name3 (LF) 300**]
   45-50%.  Likely secondary to large volume shifts (retaining total body
   fluid with renal failure, with large volume load putting stress on
   atria.)
   - Continue lopressor titrated up to 50 mg PO tid with good rate control
   (HR in 80s).
   # LE edema: likely secondary to renal failure above. Would hold off on
   diuresis given ARF.
   # Anemia: likely secondary to pulmonary hemorrhage. Likely related to a
   combination of chronic inflammatory disease, renal failure, and diffuse
   alveolar hemorrhage. No baseline Crit available.
    - Check HCT q6
   - given HCT trend, gave 1 unit yesterday with improved HCT.
   - Type and screen, cross-matched
   -          Blood consent obtained
   -          Guaiac all stools
   # FEN: Taking PO. Will replete lytes PRN.
   # Access: 2 PIVs
   # PPx: Pneumoboots, Pantoprazole PO daily, RISS, bowel regimen
   # Code: FULL, confirmed with pt with son present ([**2199-7-6**])
   # Dispo: ICU at least overnight for close monitoring of hemodynamic and
   pulmonary status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-7-7**] 12:00 AM
   18 Gauge - [**2199-7-7**] 08:32 AM
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-07-10 11:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia
   HPI:
   24 Hour Events:
   Remains with high FiO2 requirment.
   Renal bx consistent with Wegener's Granulomatosis.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2199-7-8**] 10:03 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-7-10**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.6
   HR: 99 (87 - 130) bpm
   BP: 118/72(83) {98/49(62) - 127/82(90)} mmHg
   RR: 21 (9 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 68.4 kg
   Height: 69 Inch
             Total In:
                                                                  2,477 mL
                                                                  2,103 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                  2,102 mL
                                                                  2,043 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,360 mL
                                                                  1,025 mL
   Urine:
                                                                  1,360 mL
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,117 mL
                                                                  1,078 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, date, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   221 K/uL
   94 mg/dL
   7.2 mg/dL
   25 mEq/L
   3.5 mEq/L
   149 mg/dL
   105 mEq/L
   145 mEq/L
   22.7 %
   9.0 K/uL
        [image002.jpg]
                             [**2199-7-7**]  11:04 PM
                             [**2199-7-8**]  04:02 AM
                             [**2199-7-8**]  08:13 AM
                             [**2199-7-8**]  02:46 PM
                             [**2199-7-8**]  09:30 PM
                             [**2199-7-9**]  04:25 AM
                             [**2199-7-9**]  01:17 PM
                             [**2199-7-9**]  09:20 PM
                             [**2199-7-10**]  01:30 AM
                             [**2199-7-10**]  08:05 AM
   WBC
   8.1
   5.4
   9.0
   Hct
   24.4
   22.8
   22.6
   22.0
   21.9
   21.1
   20.9
   22.7
   22.4
   22.7
   Plt
   355
   261
   221
   Cr
   8.5
   8.6
   8.1
   7.6
   8.1
   7.4
   7.1
   7.2
   Glucose
   293
   176
   156
   223
   195
   229
   172
   94
   Other labs: PT / PTT / INR:16.0/27.9/1.4, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:7.7 mg/dL
   Assessment and Plan
   Pulmonary-Renal syndrome (Wegner's Granulomatosis)
   RESPIRATORY DISTRESS -- attributed to diffuse alveolar infiltrates,
   likey due to vasculitis.  Radiographically without significant change,
   but hope to see improvement over next several days.  Monitor RR, SaO2.
   RENAL FAILURE -- attributed to vasculitis.  Continues to slowly
   improve.
   ANEMIA -- blood loss (alveolar hemorrhage, renal bx, dysfunctional
   plts).  Monitor Hct, transfuse to > 21
   WEGENER"S GRANULOMATOSIS -- steroids and cytoxan.  Continue
   plasmaphoresis QOD.
   FLUIDS -- euvolemic.  Monitor I/O
   HEMATURIA -- concern for hemorrhagic cystitis
   A-FIB -- good rate control  COntinue meds.  Monitor HR.
   NASAL CONGESTION -- possible related to Wegener's but more likely due
   to high flow O2.  Symptomaatic relief.
   HYPOCALCEMIA -- repleted.  Monitor.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2199-7-7**] 08:32 AM
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2199-07-11 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    Overnight on facemask 50%-60% with NC to maintain sats >90%.  Often
   pulling off facemask, has to be reminded.  Received 4g Calcium.  In and
   out of a flutter and NSR, this am in NSR.  Urine remains pink tinged,
   no change,  UOP was 200cc/hr for last 24 hours.  Increasing pedal
   edema, 2L fluids up. Did not receive cytoxan yesterday.  Will receive
   it after pheresis today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2199-7-8**] 10:03 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-11**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 85 (85 - 131) bpm
   BP: 126/71(83) {103/49(63) - 136/90(100)} mmHg
   RR: 23 (9 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 68.4 kg
   Height: 69 Inch
             Total In:
                                                                  4,486 mL
                                                                    979 mL
   PO:
                                                                    750 mL
             TF:
   IVF:
                                                                  3,736 mL
                                                                    979 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    640 mL
   Urine:
                                                                  2,400 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,086 mL
                                                                    339 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   211 K/uL
   7.8 g/dL
   95 mg/dL
   6.5 mg/dL
   23 mEq/L
   3.9 mEq/L
   153 mg/dL
   103 mEq/L
   142 mEq/L
   23.9 %
   10.3 K/uL
        [image002.jpg]
                             [**2199-7-8**]  02:46 PM
                             [**2199-7-8**]  09:30 PM
                             [**2199-7-9**]  04:25 AM
                             [**2199-7-9**]  01:17 PM
                             [**2199-7-9**]  09:20 PM
                             [**2199-7-10**]  01:30 AM
                             [**2199-7-10**]  08:05 AM
                             [**2199-7-10**]  01:54 PM
                             [**2199-7-10**]  11:04 PM
                             [**2199-7-11**]  05:08 AM
   WBC
   5.4
   9.0
   10.3
   Hct
   22.0
   21.9
   21.1
   20.9
   22.7
   22.4
   22.7
   25.5
   23.9
   Plt
   261
   221
   211
   Cr
   8.1
   7.6
   8.1
   7.4
   7.1
   7.2
   6.9
   6.8
   6.5
   Glucose
   156
   223
   195
   229
   172
   94
   144
   208
   95
   Other labs: PT / PTT / INR:16.0/27.9/1.4, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   Assessment and Plan
   Assessment: This is a 60 year-old male with a distant history of
   nephrolithiasis, no other chronic medical problems who presents with
   lower extremity edema and SOB.
    Plan:
    # Respiratory distress: Requiring 6L NC and 40% Fio2 facemask,
   90-98%.  Most likely secondary to diffuse alveolar hemorrhage confirmed
   on bronchoscopy [**7-6**]. Per rheumatology, C-anca is positive confirming
   the diagnosis of C-ANCA vasculitis.  This morning, he is increased work
   of breathing, with worsening lung exam and desating to the 70s without
   the facemask on.  This is unlikely due to hemorrhage as his crit has
   remained stable.  He is 2L fluid up in 24 hours and 6L up for his LOS,
   and chest Xray appears to have signs of pulmonary edema, making volume
   overload the most likely cause of worsening pulmonary status.
   -will D/C fluids, try Lasix 40IV x1.  We will balance maintaining urine
   output >100/hr for bladder protection with not giving too much Lasix
   due to renal failure.
   -Patients at Wegener
s are at increased risk for septal perforation.
   Will examine his septum today as this could worsen his repiratory
   status and make him feel nasal congestion (which he has been
   complaining of)
   -CT of sinus has been recommended, will consider when patient more
   stable.
    - HCT has been stable, follow HCT q8h to monitor for alveolar
   bleeding.
   - Continue supplemental O2 PRN.  Maintain O2 sat >90%.
   - Albuterol nebs PRN
    - CXR daily
   - F/u on BAL results from OSH
    - Patient desats while eating, if he continues will make him NPO
    - treating the underlying disease-Wegeners:
   -Plasmapheresis, dose 3/7 today, will get [**3-4**] tomorrow, then next MWF.
   -Prednisone 60mg po daily,
   -Cyclophosphamide-140 po. Rheumatology will write for this.  Will give
   mesna for cystitis prophylaxis
   -affrin nasal spray day [**12-30**] for nasal congestion
   # Acute renal failure: [**12-29**] C-ANCA vasculitis, confirmed with renal
   biopsy.  Creatinine trending down, good urine output.  BUN still high
   but not increasing, no signs of platelet dysfunction yet, mental status
   okAs a note, plasmapheresis in cases of severe Wegeners has been shown
   to improve kidney outcomes, though not mortality.
    - Renal biopsy: per renal, patient with cresenteric glomerulosclerosis
   but more cellular glomeruli than sclerotic giving hope for return on.
   Monitor for bleeding at site given possible platelet dysfunction.
   - treating underlying cause (likely Wegener's).
   - F/u on pending renal labs from OSH -> C3/C4-negative, Hep C VL
   negative, Hep B negative. [**Doctor First Name 1205**]-, anti-GBM-, anti-DNA-, cryglobulins P,
   ANCA P.
   - Foley in place , strict I&O, q8 lytes .
   -pink tinged urine, stable.  Urine has been tinged [**12-29**] nephritic
   picture, but if worsening, concern for hemorrhagic cystitis. Will
   monitor for increasing blood in urine and can irrigate the bladder if
   hemorrhagic cystitis is suspected.
    -On Sevelamer, Amphagel (today is day [**1-28**]) for hyperphos
   -          Avoid nephrotoxic agents
   -          on Atovaqone for PCP prophylaxis, avoiding Bactrim due to
   renal toxicity.
   #Hypernatremia:likely secondary to lack of access to water,resolved
   with D51/2.
    #Hypocalcemia: [**12-29**] plasmapheresis (containing citrate) and to
   underlying renal failure
   -given 4gIV in last 24 hours.
   -follow ionized Ca, more accurate given citrate used in pheresis.
   Waiting at least 4 hours after pheresis for accurate [**Location (un) 308**].
   -on SS replacement.
   -EKG unchanged
   # Tachycardia: Aflutter on EKG, in and out of NSR this am.
   Asymptomatic, rate well controlled overnight. ECHO showed mild LV
   septal [**Last Name (LF) 4197**], [**First Name3 (LF) 300**] 45-50%.  Likely secondary to large volume shifts
   (retaining total body fluid with renal failure, with large volume load
   putting stress on atria.)
   - Continue lopressor titrated up to 50 mg PO tid with good rate control
   (HR in 80s).
   # LE edema: likely secondary to renal failure above. Would hold off on
   diuresis given ARF.
   # Anemia: likely secondary to pulmonary hemorrhage. Likely related to a
   combination of chronic inflammatory disease, renal failure, and diffuse
   alveolar hemorrhage. No baseline Crit available.
    - Check HCT q8
   - will transfuse for HCT<21 or symptomatic anemia
   - Type and screen, cross-matched
   -          Blood consent obtained
   -          Stool guaiac negative today, continue to check.
   # FEN: Taking PO. Will replete lytes PRN.
   # Access: Dialysis line in his neck, with pigtail.
   # PPx: Pneumoboots, Pantoprazole PO daily, RISS, bowel regimen
   # Code: FULL, confirmed with pt with son present ([**2199-7-6**])
   # Dispo: ICU at least overnight for close monitoring of hemodynamic and
   pulmonary status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-07-11 12:14:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   HPI:
   24 Hour Events:
   Remains with high FiO2 requirement.
   HR varies from A-flutter to NRS.
   Coughing up sputum (swallowing), but more productive cough today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2199-7-8**] 10:03 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-7-11**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (96.9
   HR: 98 (85 - 131) bpm
   BP: 136/89(100) {104/60(74) - 136/90(100)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 68.4 kg (admission): 68.4 kg
   Height: 69 Inch
             Total In:
                                                                  4,486 mL
                                                                  1,971 mL
   PO:
                                                                    750 mL
                                                                    160 mL
   TF:
   IVF:
                                                                  3,736 mL
                                                                  1,811 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                  1,235 mL
   Urine:
                                                                  2,400 mL
                                                                  1,235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,086 mL
                                                                    736 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : diffuse, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   211 K/uL
   95 mg/dL
   6.5 mg/dL
   23 mEq/L
   3.9 mEq/L
   153 mg/dL
   103 mEq/L
   142 mEq/L
   23.9 %
   10.3 K/uL
        [image002.jpg]
                             [**2199-7-8**]  02:46 PM
                             [**2199-7-8**]  09:30 PM
                             [**2199-7-9**]  04:25 AM
                             [**2199-7-9**]  01:17 PM
                             [**2199-7-9**]  09:20 PM
                             [**2199-7-10**]  01:30 AM
                             [**2199-7-10**]  08:05 AM
                             [**2199-7-10**]  01:54 PM
                             [**2199-7-10**]  11:04 PM
                             [**2199-7-11**]  05:08 AM
   WBC
   5.4
   9.0
   10.3
   Hct
   22.0
   21.9
   21.1
   20.9
   22.7
   22.4
   22.7
   25.5
   23.9
   Plt
   261
   221
   211
   Cr
   8.1
   7.6
   8.1
   7.4
   7.1
   7.2
   6.9
   6.8
   6.5
   Glucose
   156
   223
   195
   229
   172
   94
   144
   208
   95
   Other labs: PT / PTT / INR:14.3/28.3/1.2, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   Pulmonary-Renal Syndrome (Wegener's Granulomatosis)
   RESPIRATORY DISTRESS -- attributed to vasculitis.  Monitor RR, SaO2.
   Possible component of pulmonary edema.
   HYPOXEMIA -- attributed to pulmonary infiltrates.  Continue
   supplemental oxygen, monitor RR, SaO2.
   PULMONARY RENAL SYNDROME -- Wegener's Granulomatosis.  Continue
   steroids & cytoxan.  Plasmaphoresis.
   RENAL FAILURE -- improving.  Monitor uo, BUN, creatinine.
   FLUIDS
 desire to allow net diuresis.  Consider Lasix dose.
   NUTRIONAL SUPPORT -- PO
   HEMATURIA -- stable.  Monitor.
   ANEMIA -- stable s/p transfusion.
   HYPOCALCEMIA -- continue to replete.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2199-07-12 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had plamaspheresis yesterday. Cyclophosphamide changed to po.
   Continued to desat into the 80s because his mask falls off, but remains
   >95% when it is on.  We stopped fluids yesterday and he was given 3x 40
   IV lasix.  Was only -300 at midnight, but since, he has been -1.8
   liters. Urine output before midnight=300cc/hr and after MN, continued
   to >300. Cough has been productive for 2 days, with blood tinge, sputum
   sent yesterday.
   HCT remained stable, repleted lytes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2199-7-11**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-12**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 92 (76 - 130) bpm
   BP: 136/67(84) {104/60(51) - 145/91(100)} mmHg
   RR: 26 (12 - 27) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 68.4 kg (admission): 68.4 kg
   Height: 69 Inch
             Total In:
                                                                  2,660 mL
                                                                     70 mL
   PO:
                                                                    290 mL
             TF:
   IVF:
                                                                  2,214 mL
                                                                     70 mL
   Blood products:
                                                                    156 mL
   Total out:
                                                                  3,010 mL
                                                                  1,900 mL
   Urine:
                                                                  3,010 mL
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                 -1,830 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 89%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   185 K/uL
   7.3 g/dL
   82 mg/dL
   6.1 mg/dL
   28 mEq/L
   3.6 mEq/L
   152 mg/dL
   104 mEq/L
   143 mEq/L
   21.6 %
   11.0 K/uL
         [image002.jpg]
                             [**2199-7-9**]  01:17 PM
                             [**2199-7-9**]  09:20 PM
                             [**2199-7-10**]  01:30 AM
                             [**2199-7-10**]  08:05 AM
                             [**2199-7-10**]  01:54 PM
                             [**2199-7-10**]  11:04 PM
                             [**2199-7-11**]  05:08 AM
                             [**2199-7-11**]  03:17 PM
                             [**2199-7-11**]  09:59 PM
                             [**2199-7-12**]  04:37 AM
   WBC
   9.0
   10.3
   11.0
   Hct
   20.9
   22.7
   22.4
   22.7
   25.5
   23.9
   24.0
   23.7
   21.6
   Plt
   221
   211
   185
   Cr
   8.1
   7.4
   7.1
   7.2
   6.9
   6.8
   6.5
   6.2
   6.1
   Glucose
   195
   229
   172
   94
   144
   208
   95
   146
   82
   Other labs: PT / PTT / INR:14.5/29.8/1.2, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   Assessment: This is a 60 year-old male with a distant history of
   nephrolithiasis, no other chronic medical problems who presents with
   lower extremity edema and SOB.
    Plan:
    # Respiratory distress: Requiring 6L NC and 40% Fio2 facemask,
   90-98%.  Most likely secondary to diffuse alveolar hemorrhage [**12-29**]
   C-ANCA vasculitis. This morning, he breathing more easily, with stable
   lung exam though his CXR looks unchanged.  This is likely due to
   diuresis, as he is -2L in the past 24 hours.  Per nursing, he has new
   hemoptysis, unlclear if it is pink tinged or w/frank blood.  Also has
   2+ budding yeast on sputum, without signs of candidiasis on
   oropharyngeal exam.
   -Will give lasix 40IV for goal of -1-2 L today.  We will also watch his
   urine output and restart IVF if necessary. We will balance maintaining
   urine output >100/hr for bladder protection with not giving too much
   Lasix due to renal failure.
   -Patients at Wegener
s are at increased risk for septal perforation.
   His septum is intact this am.  Will continue to check daily.
   -Start nystatin mouthwash
   -Send blood cultures for fungus (though highly unlikely given pt. is
   afebrile, stable,  but he is on high dose immunosuppression)
   -CT of sinus has been recommended, but will not likely change
   management  so we will not order it at this time.
    - HCTq8h to monitor for alveolar bleeding.  Given
   - Continue supplemental O2 PRN.  Maintain O2 sat >90%.
   - Albuterol nebs PRN
    - CXR daily
   - F/u on BAL results from OSH
    - Patient desats while eating, if he continues will make him NPO
    - treating the underlying disease-Wegeners:
   -Plasmapheresis, dose 3/7 today, will get [**3-4**] tomorrow, then next MWF.
   -Prednisone 60mg po daily,
   -Cyclophosphamide-140 po. Rheumatology will write for this.  Will give
   mesna for cystitis prophylaxis
   -affrin nasal spray day [**12-30**] for nasal congestion
   # Acute renal failure: [**12-29**] C-ANCA vasculitis, confirmed with renal
   biopsy.  Creatinine trending down, good urine output.  BUN still high
   but not increasing, no signs of platelet dysfunction yet, mental status
   okAs a note, plasmapheresis in cases of severe Wegeners has been shown
   to improve kidney outcomes, though not mortality.
    - Renal biopsy: per renal, patient with cresenteric glomerulosclerosis
   but more cellular glomeruli than sclerotic giving hope for return on.
   Monitor for bleeding at site given possible platelet dysfunction.
   - treating underlying cause (likely Wegener's).
   - F/u on pending renal labs from OSH -> C3/C4-negative, Hep C VL
   negative, Hep B negative. [**Doctor First Name 1205**]-, anti-GBM-, anti-DNA-, cryglobulins P,
   ANCA P.
   - Foley in place , strict I&O, q8 lytes .
   -pink tinged urine, stable.  Urine has been tinged [**12-29**] nephritic
   picture, but if worsening, concern for hemorrhagic cystitis. Will
   monitor for increasing blood in urine and can irrigate the bladder if
   hemorrhagic cystitis is suspected.
    -On Sevelamer, Amphagel (today is day [**1-28**]) for hyperphos
   -          Avoid nephrotoxic agents
   -          on Atovaqone for PCP prophylaxis, avoiding Bactrim due to
   renal toxicity.
   #Hypernatremia:likely secondary to lack of access to water,resolved
   with D51/2.
    #Hypocalcemia: [**12-29**] plasmapheresis (containing citrate) and to
   underlying renal failure
   -given 4gIV in last 24 hours.
   -follow ionized Ca, more accurate given citrate used in pheresis.
   Waiting at least 4 hours after pheresis for accurate [**Location (un) 308**].
   -on SS replacement.
   -EKG unchanged
   # Tachycardia: Aflutter on EKG, in and out of NSR this am.
   Asymptomatic, rate well controlled overnight. ECHO showed mild LV
   septal [**Last Name (LF) 4197**], [**First Name3 (LF) 300**] 45-50%.  Likely secondary to large volume shifts
   (retaining total body fluid with renal failure, with large volume load
   putting stress on atria.)
   - Continue lopressor titrated up to 50 mg PO tid with good rate control
   (HR in 80s).
   # LE edema: likely secondary to renal failure above. Would hold off on
   diuresis given ARF.
   # Anemia: likely secondary to pulmonary hemorrhage. Likely related to a
   combination of chronic inflammatory disease, renal failure, and diffuse
   alveolar hemorrhage. No baseline Crit available.
    - Check HCT q8
   - will transfuse for HCT<21 or symptomatic anemia
   - Type and screen, cross-matched
   -          Blood consent obtained
   -          Stool guaiac negative today, continue to check.
   # FEN: Taking PO. Will replete lytes PRN.
   # Access: Dialysis line in his neck, with pigtail.
   # PPx: Pneumoboots, Pantoprazole PO daily, RISS, bowel regimen
   # Code: FULL, confirmed with pt with son present ([**2199-7-6**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-07-12 12:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia.
   HPI:
   24 Hour Events:
   Experienced some hemoptysis yesterday PM.
   Appears much more comfortable today, less dyspneic.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2199-7-11**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze, Hemoptysis
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis, Hematuria
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-7-12**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 101 (76 - 130) bpm
   BP: 129/75(84) {107/61(51) - 145/91(98)} mmHg
   RR: 26 (18 - 27) insp/min
   SpO2: 88%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 68.4 kg (admission): 68.4 kg
   Height: 69 Inch
             Total In:
                                                                  2,660 mL
                                                                    238 mL
   PO:
                                                                    290 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,214 mL
                                                                    118 mL
   Blood products:
                                                                    156 mL
   Total out:
                                                                  3,010 mL
                                                                  2,900 mL
   Urine:
                                                                  3,010 mL
                                                                  2,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                 -2,663 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 88%
   ABG: ///28/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Conjunctiva pale,
   No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.3 g/dL
   185 K/uL
   82 mg/dL
   6.1 mg/dL
   28 mEq/L
   3.6 mEq/L
   152 mg/dL
   104 mEq/L
   143 mEq/L
   21.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2199-7-9**]  01:17 PM
                             [**2199-7-9**]  09:20 PM
                             [**2199-7-10**]  01:30 AM
                             [**2199-7-10**]  08:05 AM
                             [**2199-7-10**]  01:54 PM
                             [**2199-7-10**]  11:04 PM
                             [**2199-7-11**]  05:08 AM
                             [**2199-7-11**]  03:17 PM
                             [**2199-7-11**]  09:59 PM
                             [**2199-7-12**]  04:37 AM
   WBC
   9.0
   10.3
   11.0
   Hct
   20.9
   22.7
   22.4
   22.7
   25.5
   23.9
   24.0
   23.7
   21.6
   Plt
   221
   211
   185
   Cr
   8.1
   7.4
   7.1
   7.2
   6.9
   6.8
   6.5
   6.2
   6.1
   Glucose
   195
   229
   172
   94
   144
   208
   95
   146
   82
   Other labs: PT / PTT / INR:14.5/29.8/1.2, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   Wegener's Granulomatosis
   PULMNARY-RENAL SYNDROME -- attributed to Wegener's
   WEGENER'S GRANULOMATOSIS -- + c-ANCA.  Continue steroids & cytoxan,
   plasmaphoresis
   RENAL FAILURE -- Wegener's.  Continues gradual improvement, creatinine
   falling, urine output improving, responding to diuretics.
   HEMOPTYSIS -- likley due to pulmonary hemorrhage.  Monitor for
   escalation.  Consider dDAVP.  [**Month (only) 60**] need dialysis if continues to
   NUTRITIONAL SUPPORT -- PO
   ANEMIA -- multifactorial.  Pulmonary hemorrhage (stablle), bone marrow
   suppression.  Transfuse to Hct >25
   FLUID -- continue net negative.  Monitor I/O.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2199-07-13 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Did well. No hemoptysis.
   Transfused one unit and crit bumped appropriately (21.5-25).  Continued
   diuresis yesterday to goal -2L.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-13**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 86 (86 - 116) bpm
   BP: 113/62(74) {113/62(74) - 151/93(107)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 68.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,945 mL
                                                                    340 mL
   PO:
                                                                    980 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    319 mL
                                                                    100 mL
   Blood products:
                                                                    646 mL
   Total out:
                                                                  4,410 mL
                                                                    470 mL
   Urine:
                                                                  4,410 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,465 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   170 K/uL
   7.8 g/dL
   79 mg/dL
   5.2 mg/dL
   31 mEq/L
   3.5 mEq/L
   147 mg/dL
   101 mEq/L
   144 mEq/L
   22.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2199-7-10**]  01:30 AM
                             [**2199-7-10**]  08:05 AM
                             [**2199-7-10**]  01:54 PM
                             [**2199-7-10**]  11:04 PM
                             [**2199-7-11**]  05:08 AM
                             [**2199-7-11**]  03:17 PM
                             [**2199-7-11**]  09:59 PM
                             [**2199-7-12**]  04:37 AM
                             [**2199-7-12**]  07:41 PM
                             [**2199-7-13**]  05:22 AM
   WBC
   9.0
   10.3
   11.0
   11.0
   Hct
   22.4
   22.7
   25.5
   23.9
   24.0
   23.7
   21.6
   25.0
   22.6
   Plt
   221
   211
   185
   170
   Cr
   7.1
   7.2
   6.9
   6.8
   6.5
   6.2
   6.1
   5.6
   5.2
   Glucose
   172
   94
   144
   208
   95
   146
   82
   145
   79
   Other labs: PT / PTT / INR:14.5/29.8/1.2, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   Assessment: This is a 60 year-old male with a distant history of
   nephrolithiasis, no other chronic medical problems who presents with
   lower extremity edema and SOB.
    Plan:
    # Respiratory distress: Requiring 6L NC and 80% Fio2 facemask, 90-98%.
   Continues to desat to 80s when mask comes off.  Most likely secondary
   to diffuse alveolar hemorrhage [**12-29**] C-ANCA vasculitis. This morning he
   looks mor comfortable though CXR looks unchanged.  This is likely due
   to 2 days of diuresis, as he is -2.5L in the past 24 hours and -6.5L in
   the last 3 days.  Urine output remains high.
    - Continue supplemental O2 PRN.  Maintain O2 sat >90%.
   -Will give lasix 40IV for goal of -500
1L today.  We will also watch
   his urine output and restart IVF if necessary to keep >100cc/hr
    -Patients at Wegener
s are at increased risk for septal perforation.
   His septum is intact this am.  Will continue to check daily.
    - HCT down today, unlikely due to alveolar imprroving respiratory
   status, no hemoptysis.  Continue to monitor
   - If possible Will collect sputum to determine whether hemoptysis is
   tinged, bright red or just pink fronthy.
   -Continue nystatin mouthwash for [**Female First Name (un) 188**]+ sputum, though no sign of
   thrush.
   -CT of sinus has been recommended, but will not likely change
   management  so we will not order it at this time.
   - Albuterol nebs PRN
    - CXR daily
     - treating the underlying disease-Wegeners:
   -Plasmapheresis, dose 4/7 yesterday, then next MWF.
   -Prednisone 60mg po daily,
   -Cyclophosphamide-125 po. Rheumatology will write for this.  No MESNA
   needed, will give po H20 before dose
   # Acute renal failure: [**12-29**] C-ANCA vasculitis, confirmed with renal
   biopsy.  Creatinine trending down, good urine output.  BUN still high
   but not increasing, no signs of platelet dysfunction yet, mental status
   ok.  Urine is less pink that previously.  Renal function has been
   steadily improving, likely as a response to Wegeners treatment. As a
   note, plasmapheresis in cases of severe Wegeners has been shown to
   improve kidney outcomes, though not mortality.
   - treating underlying cause (likely Wegener's).
   - Foley in place , strict I&O, q8 lytes.
   -pink tinged urine, improved. Will continue to monitor visually.  If
   worsening will get U/A.    It is also possible that his HCT is due to
   hemorrhagic cystitis given he is on cyclophosphamide,  though he has no
   signs of increasing hematuria at present.
    -On Sevelamer, for hyperphos
   -          Avoid nephrotoxic agents
   -          on Atovaqone for PCP prophylaxis, avoiding Bactrim due to
   renal toxicity.
    #Hypocalcemia: [**12-29**] plasmapheresis (containing citrate) and to
   underlying renal failure
    -received 4IV CA last night
   -follow ionized Ca, more accurate given citrate used in pheresis.
   Waiting at least 4 hours after pheresis for accurate [**Location (un) 308**].
   -on SS replacement.
   -EKG unchanged
   # Tachycardia: Rate has been well controlled over the past 2 days.
   Asymptomatic, rate well controlled overnight. ECHO showed mild LV
   septal [**Last Name (LF) 4197**], [**First Name3 (LF) 300**] 45-50%.  Likely secondary to large volume shifts
   (retaining total body fluid with renal failure, with large volume load
   putting stress on atria.)
   - Continue lopressor titrated up to 50 mg PO tid with good rate control
   (HR in 80s).
   # Anemia: Low HCT originally due to pulmonary hemorrhage,  chronic
   inflammatory disease, renal failure, and diffuse alveolar hemorrhage.
   He received 1 unit yesterday and bumped appropriately but his HCT is
   down today.  HCT is likely due to fluid shifts with plasmapheresis.  He
   will not receive pheresis this weekend, so we can monitor to see if HCT
   stays stable.
   -q12 HCT, transfuse if <21
    - Type and screen, cross-matched
    -          Blood consent obtained
    -          Stool guaiac negative yesterday, continue to check.
   # FEN: Taking PO. Will replete lytes PRN.
   # Access: Dialysis line in his neck, with pigtail.
   # PPx: Pneumoboots, Pantoprazole PO daily, RISS, bowel regimen
    # Code: FULL, confirmed with pt with son present ([**2199-7-6**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-07-13 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   HPI:
   24 Hour Events:
   Continues to require supplimental oxygen, desaturates with activity.
   Tolerating net diuresis.
   Hemoptysis resolved.
   Overall, states to feel improved.  Dysnpea improved.  Able to sleep
   somewhat last PM (improvement).
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-7-13**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 98 (86 - 128) bpm
   BP: 140/81(96) {113/53(67) - 151/93(107)} mmHg
   RR: 25 (11 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 68.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,945 mL
                                                                    560 mL
   PO:
                                                                    980 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    319 mL
                                                                    200 mL
   Blood products:
                                                                    646 mL
   Total out:
                                                                  4,410 mL
                                                                    960 mL
   Urine:
                                                                  4,410 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,465 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   170 K/uL
   79 mg/dL
   5.2 mg/dL
   31 mEq/L
   3.5 mEq/L
   147 mg/dL
   101 mEq/L
   144 mEq/L
   22.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2199-7-10**]  01:30 AM
                             [**2199-7-10**]  08:05 AM
                             [**2199-7-10**]  01:54 PM
                             [**2199-7-10**]  11:04 PM
                             [**2199-7-11**]  05:08 AM
                             [**2199-7-11**]  03:17 PM
                             [**2199-7-11**]  09:59 PM
                             [**2199-7-12**]  04:37 AM
                             [**2199-7-12**]  07:41 PM
                             [**2199-7-13**]  05:22 AM
   WBC
   9.0
   10.3
   11.0
   11.0
   Hct
   22.4
   22.7
   25.5
   23.9
   24.0
   23.7
   21.6
   25.0
   22.6
   Plt
   221
   211
   185
   170
   Cr
   7.1
   7.2
   6.9
   6.8
   6.5
   6.2
   6.1
   5.6
   5.2
   Glucose
   172
   94
   144
   208
   95
   146
   82
   145
   79
   Other labs: PT / PTT / INR:14.5/29.8/1.2, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:6.2 mg/dL
   Imaging: CXR ([**2199-7-13**]) somewhat improved, esp. right lung field.
   Assessment and Plan
   Wegener's Granulomatosis
   RESPIRATORY DISTRESS -- slow improvement clincally and
   radiographically, although clinically best tody.  Continue current
   management.  Provide supplemental oxygen, monitor SaO2, maintain >90%.
   RENAL FAILURE -- continues gradual improvement.  Monitor BUN, creat,
   urine output.  No indication for acute dialysis at this time.
   PULMONARY-RENAL SYNDROME -- attributed to Wegener's.
   WEGENER'S GRANULOMATOSIS -- clinical response to current mangement.
   Continue steoids, cytoxan, plasmaphoresis (total 7 treatments)
   NUTRITIONAL SUPPORT
 encourage PO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2199-07-14 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2199-7-13**] 06:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-14**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 108 (91 - 135) bpm
   BP: 134/63(80) {116/62(74) - 151/85(97)} mmHg
   RR: 19 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.4 kg (admission): 68.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,690 mL
                                                                    190 mL
   PO:
                                                                  1,220 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    470 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                    900 mL
   Urine:
                                                                  2,465 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                   -710 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   8.2 g/dL
   117 mg/dL
   5.0 mg/dL
   29 mEq/L
   3.5 mEq/L
   148 mg/dL
   100 mEq/L
   140 mEq/L
   24.0 %
   12.2 K/uL
        [image002.jpg]
                             [**2199-7-10**]  01:54 PM
                             [**2199-7-10**]  11:04 PM
                             [**2199-7-11**]  05:08 AM
                             [**2199-7-11**]  03:17 PM
                             [**2199-7-11**]  09:59 PM
                             [**2199-7-12**]  04:37 AM
                             [**2199-7-12**]  07:41 PM
                             [**2199-7-13**]  05:22 AM
                             [**2199-7-13**]  04:05 PM
                             [**2199-7-14**]  04:00 AM
   WBC
   10.3
   11.0
   11.0
   12.2
   Hct
   25.5
   23.9
   24.0
   23.7
   21.6
   25.0
   22.6
   26.7
   24.0
   Plt
   [**Telephone/Fax (3) 4429**]00
   Cr
   6.9
   6.8
   6.5
   6.2
   6.1
   5.6
   5.2
   5.1
   5.0
   Glucose
   144
   208
   95
   146
   82
   145
   79
   237
   117
   Other labs: PT / PTT / INR:14.5/29.8/1.2, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   This is a 60 year-old male with a distant history of nephrolithiasis,
   no other chronic medical problems who presents with lower extremity
   edema and SOB.
    Plan:
    # Respiratory distress: Requiring 6L NC and 80% Fio2 facemask, 90-98%.
   Continues to desat to 80s when mask comes off.  Most likely secondary
   to diffuse alveolar hemorrhage [**12-29**] C-ANCA vasculitis. This morning he
   looks mor comfortable though CXR looks unchanged.  This is likely due
   to 2 days of diuresis, as he is -2.5L in the past 24 hours and -6.5L in
   the last 3 days.  Urine output remains high.
    - Continue supplemental O2 PRN.  Maintain O2 sat >90%.
   -Will give lasix 40IV for goal of -500
1L today.  We will also watch
   his urine output and restart IVF if necessary to keep >100cc/hr
    -Patients at Wegener
s are at increased risk for septal perforation.
   His septum is intact this am.  Will continue to check daily.
    - HCT down today, unlikely due to alveolar imprroving respiratory
   status, no hemoptysis.  Continue to monitor
   - If possible Will collect sputum to determine whether hemoptysis is
   tinged, bright red or just pink fronthy.
   -Continue nystatin mouthwash for [**Female First Name (un) 188**]+ sputum, though no sign of
   thrush.
   -CT of sinus has been recommended, but will not likely change
   management  so we will not order it at this time.
   - Albuterol nebs PRN
    - CXR daily
     - treating the underlying disease-Wegeners:
   -Plasmapheresis, dose 4/7 yesterday, then next MWF.
   -Prednisone 60mg po daily,
   -Cyclophosphamide-125 po. Rheumatology will write for this.  No MESNA
   needed, will give po H20 before dose
   # Acute renal failure: [**12-29**] C-ANCA vasculitis, confirmed with renal
   biopsy.  Creatinine trending down, good urine output.  BUN still high
   but not increasing, no signs of platelet dysfunction yet, mental status
   ok.  Urine is less pink that previously.  Renal function has been
   steadily improving, likely as a response to Wegeners treatment. As a
   note, plasmapheresis in cases of severe Wegeners has been shown to
   improve kidney outcomes, though not mortality.
   - treating underlying cause (likely Wegener's)
   - Foley in place , strict I&O, q8 lytes.
   -pink tinged urine, improved. Will continue to monitor visually.  If
   worsening will get U/A.    It is also possible that his HCT is due to
   hemorrhagic cystitis given he is on cyclophosphamide,  though he has no
   signs of increasing hematuria at present.
    -On Sevelamer, for hyperphos
   -          Avoid nephrotoxic agents
   -          on Atovaqone for PCP prophylaxis, avoiding Bactrim due to
   renal toxicity.
    #Hypocalcemia: [**12-29**] plasmapheresis (containing citrate) and to
   underlying renal failure
    -received 4IV CA last night
   -follow ionized Ca, more accurate given citrate used in pheresis.
   Waiting at least 4 hours after pheresis for accurate [**Location (un) 308**].
   -on SS replacement.
   -EKG unchanged
   # Tachycardia: Rate has been well controlled over the past 2 days.
   Asymptomatic, rate well controlled overnight. ECHO showed mild LV
   septal [**Last Name (LF) 4197**], [**First Name3 (LF) 300**] 45-50%.  Likely secondary to large volume shifts
   (retaining total body fluid with renal failure, with large volume load
   putting stress on atria.)
   - Continue lopressor titrated up to 50 mg PO tid with good rate control
   (HR in 80s).
   # Anemia: Low HCT originally due to pulmonary hemorrhage,  chronic
   inflammatory disease, renal failure, and diffuse alveolar hemorrhage.
   He received 1 unit yesterday and bumped appropriately but his HCT is
   down today.  HCT is likely due to fluid shifts with plasmapheresis.  He
   will not receive pheresis this weekend, so we can monitor to see if HCT
   stays stable.
   -q12 HCT, transfuse if <21
    - Type and screen, cross-matched
    -          Blood consent obtained
    -          Stool guaiac negative yesterday, continue to check.
   # FEN: Taking PO. Will replete lytes PRN.
   # Access: Dialysis line in his neck, with pigtail.
   # PPx: Pneumoboots, Pantoprazole PO daily, RISS, bowel regimen
    # Code: FULL, confirmed with pt with son present ([**2199-7-6**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-07-14 12:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   HPI:
   24 Hour Events:
   No new events.
   Revieved 1 U PRBC transfusion, tolerated well.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2199-7-13**] 06:10 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-7-14**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 122 (97 - 135) bpm
   BP: 126/85(92) {122/63(77) - 151/85(97)} mmHg
   RR: 23 (18 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.4 kg (admission): 68.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,690 mL
                                                                    477 mL
   PO:
                                                                  1,220 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    470 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                  1,540 mL
   Urine:
                                                                  2,465 mL
                                                                  1,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                 -1,063 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   200 K/uL
   117 mg/dL
   5.0 mg/dL
   29 mEq/L
   3.5 mEq/L
   148 mg/dL
   100 mEq/L
   140 mEq/L
   24.0 %
   12.2 K/uL
        [image002.jpg]
                             [**2199-7-10**]  01:54 PM
                             [**2199-7-10**]  11:04 PM
                             [**2199-7-11**]  05:08 AM
                             [**2199-7-11**]  03:17 PM
                             [**2199-7-11**]  09:59 PM
                             [**2199-7-12**]  04:37 AM
                             [**2199-7-12**]  07:41 PM
                             [**2199-7-13**]  05:22 AM
                             [**2199-7-13**]  04:05 PM
                             [**2199-7-14**]  04:00 AM
   WBC
   10.3
   11.0
   11.0
   12.2
   Hct
   25.5
   23.9
   24.0
   23.7
   21.6
   25.0
   22.6
   26.7
   24.0
   Plt
   [**Telephone/Fax (3) 4429**]00
   Cr
   6.9
   6.8
   6.5
   6.2
   6.1
   5.6
   5.2
   5.1
   5.0
   Glucose
   144
   208
   95
   146
   82
   145
   79
   237
   117
   Other labs: PT / PTT / INR:14.5/29.8/1.2, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Respiratory distress and acute renal failure --> Wegener's
   Granulomatosis
   RESPRIATORY DISTRESS -- gradual improvement.  Monitor RR, SaO2,
   maintain >90%.
   RENAL FAILURE -- initial good recovery, with good urine output;
   however, now creatitine with minimal decline over past 2-3 days.  [**Month (only) 60**]
   be approaching new baseline.  [**Month (only) 60**] ultimately require dialysis.
   WEGENER'S GRANULOMATOSIS -- slow clinical response;  continue steroids,
   cytoxan & plasmaphoresis
   TACHYCARDIA -- persistent.  Attributed to hypoxemia and airspace
   disease.
   FLUIDS -- desire net negative if tolerated by BP.
   NUTRITIONAL SUPPORT -- encourage PO.
   ANEMIA -- ACD, no evidence for acute bleed.  Monitor Hct.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2199-07-15 06:26:00 Physician Resident Progress Note
Chief Complaint: 60 year old male transferred from OSH with repiratory
   distress alveolar hemmorhage(confirmed by bronch), acute renal failure
   and nephritic syndome.  Confirmed to have c-anca vasculitis.  Treated
   here with cyclophosphamide, steroids (solumedrol, now prednisone) and
   plasmapheresis.  Kidney function improving steadily, no dialysis was
   needed.  Respiratory status stable, continues to require facemask to
   keep 02 sats >90%, no signs of continued bleeding into lungs.
   24 Hour Events:
   Continued to desat when facemask off.  otherwise, stable.  Diuresed 1.2
   liters yesterday, (autodiuresis).  Put on standing dose of insulin,
   hyperglycemia [**12-29**] to steroid use.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-15**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 117 (99 - 137) bpm
   BP: 117/79(88) {113/64(78) - 143/85(96)} mmHg
   RR: 24 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.4 kg (admission): 68.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,510 mL
                                                                    304 mL
   PO:
                                                                  1,340 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    170 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                    300 mL
   Urine:
                                                                  2,800 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,290 mL
                                                                      4 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   217 K/uL
   7.8 g/dL
   88 mg/dL
   4.4 mg/dL
   30 mEq/L
   3.7 mEq/L
   145 mg/dL
   103 mEq/L
   144 mEq/L
   23.0 %
   9.8 K/uL
        [image002.jpg]
                             [**2199-7-11**]  05:08 AM
                             [**2199-7-11**]  03:17 PM
                             [**2199-7-11**]  09:59 PM
                             [**2199-7-12**]  04:37 AM
                             [**2199-7-12**]  07:41 PM
                             [**2199-7-13**]  05:22 AM
                             [**2199-7-13**]  04:05 PM
                             [**2199-7-14**]  04:00 AM
                             [**2199-7-14**]  03:55 PM
                             [**2199-7-15**]  04:07 AM
   WBC
   10.3
   11.0
   11.0
   12.2
   9.8
   Hct
   23.9
   24.0
   23.7
   21.6
   25.0
   22.6
   26.7
   24.0
   27.0
   23.0
   Plt
   [**Telephone/Fax (3) 4429**]00
   217
   Cr
   6.5
   6.2
   6.1
   5.6
   5.2
   5.1
   5.0
   4.4
   Glucose
   95
   146
   82
   145
   79
   237
   117
   88
   Other labs: PT / PTT / INR:14.5/29.8/1.2, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 60 year-old male with a distant history of nephrolithiasis,
   no other chronic medical problems who presents with lower extremity
   edema and SOB.
    Plan:
    # Respiratory distress: Requiring 6L NC and 60% Fio2 face tent,
   90-98%. Continues to desat to 80s when mask comes off.  Most likely
   secondary to diffuse alveolar hemorrhage [**12-29**] C-ANCA vasculitis.  CXR
   shows interval improvement, patient appears to be responding to
   diuresis as well.
    - Continue supplemental O2 PRN.  Maintain O2 sat >90%.
   - HCT down today, unlikely due to alveolar hemoorhave given improving
   respiratory status and no hemoptysis.  .
   -Continue nystatin mouthwash for [**Female First Name (un) 188**]+ sputum, though no sign of
   thrush.
   - Atrovent nebs PRN  (albuterol nebs held due to tachycardia)
   - CXR daily
   -Plasmapheresis, dose 5/7 today, then W/F.
   -Prednisone 60mg po daily,
   -Cyclophosphamide-125 po. Rheumatology will write for this.  No MESNA
   needed, will give po H20 before dose
   - f/u Rheum recs
   # Acute renal failure: [**12-29**] C-ANCA vasculitis, confirmed with renal
   biopsy.  Creatinine trending down, good urine output.  As a note,
   plasmapheresis in cases of severe Wegeners has been shown to improve
   kidney outcomes, though not mortality.
   - Foley in place , strict I&O,  goal -1 liter today (has been
   [**Last Name (LF) 4459**], [**First Name3 (LF) **] no lasix unless needed this pm)
   -pink tinged urine, improved. Will continue to monitor visually.  If
   worsening will get U/A
    -On Sevelamer, for hyperphos. Phos at high end of normal today, will
   continue for at least one more day.
   -          Avoid nephrotoxic agents
   -          on Atovaqone for PCP prophylaxis, avoiding Bactrim due to
   renal toxicity.
    #Hypocalcemia: [**12-29**] plasmapheresis (containing citrate) and to
   underlying renal failure
   -follow ionized Ca, more accurate given citrate used in pheresis.
   Waiting at least 4 hours after pheresis for accurate [**Location (un) 308**].
   -on SS replacement.
   # Tachycardia:  Continued tachycardia, ? atrial vs. sinus.
   Hemodynamically stable.  ECHO showed mild LV septal [**Last Name (LF) 4197**], [**First Name3 (LF) 300**]
   45-50%.  Possibly secondary to large volume shifts (retaining total
   body fluid with renal failure, with large volume load putting stress on
   atria.)
   -EKG to eval for atrial tach vs. sinus tach.  If sinus, will work up
   underlying cause.  If atrial, will increase lopressor to 75mg po tid.
   # Anemia: Low HCT originally due to pulmonary hemorrhage,  chronic
   inflammatory disease, renal failure, and diffuse alveolar hemorrhage.
    HCT have been low in the morning and higher in the afternoon for the
   past 2 days despite no transfusion and no plasmapheresis.  Variation
   may be due to lab variability, fluid shifts during the day, or another
   unknown cause.  Will monitor as long as he is hemodynamically stable.
   -qday HCT, transfuse if <21
    - Type and screen, cross-matched
    -  Blood consent obtained
    -  Stool guaiac negative thus far, continue to check all stools.
   #Hyperglycemia- non-diabetic, likely [**12-29**] high dose steroids.
   -SSI plus standing 3units
   # FEN: Taking PO. Will replete lytes PRN.
   # Access: Dialysis line in his neck, with pigtail.
   # PPx: Pneumoboots, Pantoprazole PO daily, RISS, bowel regimen
    # Code: FULL, confirmed with pt with son present ([**2199-7-6**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-07-16 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Continues with same 02 requirement.  EKG yesterday revealed aflutter
   with variable 2:1 and 3:1 conduction.  Increased BB to 75 tid, HR low
   100s all night.
   Reveived plasmapheresis yesterday, tolerated it well. Repleted Calcium
   overnight.
   Followed by renal and rheum.
 EKG - At [**2199-7-15**] 12:02 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2199-7-15**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-16**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 106 (100 - 142) bpm
   BP: 107/62(73) {103/47(59) - 138/86(96)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.3 kg (admission): 68.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,530 mL
                                                                    600 mL
   PO:
                                                                  1,220 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    310 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,565 mL
                                                                  1,200 mL
   Urine:
                                                                  2,565 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,036 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   7.2 g/dL
   92 mg/dL
   4.3 mg/dL
   32 mEq/L
   3.6 mEq/L
   135 mg/dL
   103 mEq/L
   145 mEq/L
   21.3 %
   8.4 K/uL
        [image002.jpg]
                             [**2199-7-11**]  09:59 PM
                             [**2199-7-12**]  04:37 AM
                             [**2199-7-12**]  07:41 PM
                             [**2199-7-13**]  05:22 AM
                             [**2199-7-13**]  04:05 PM
                             [**2199-7-14**]  04:00 AM
                             [**2199-7-14**]  03:55 PM
                             [**2199-7-15**]  04:07 AM
                             [**2199-7-15**]  08:17 PM
                             [**2199-7-16**]  04:05 AM
   WBC
   11.0
   11.0
   12.2
   9.8
   8.4
   Hct
   23.7
   21.6
   25.0
   22.6
   26.7
   24.0
   27.0
   23.0
   25.1
   21.3
   Plt
   185
   170
   200
   217
   200
   Cr
   6.2
   6.1
   5.6
   5.2
   5.1
   5.0
   4.4
   4.2
   4.3
   Glucose
   146
   82
   145
   79
   237
   117
   88
   208
   92
   Other labs: PT / PTT / INR:14.5/29.8/1.2, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 60 year-old male with a distant history of nephrolithiasis,
   no other chronic medical problems who presents with lower extremity
   edema and SOB.
     Plan:
    # Respiratory distress: Has been stable on 6L NC.  Most likely
   secondary to diffuse alveolar hemorrhage [**12-29**] C-ANCA vasculitis.  CXR
   shows interval improvement, patient appears to be responding to
   diuresis as well.
    - Wean 02  to keep sat >90%.
    - HCT decreased to 21.3 this morning, unlikely due to alveolar
   hemoorhave given improving respiratory status and no hemoptysis.
   Probably due to plasmapheresis and fluid shifting.  His respiratory
   status may be marginally helped by an increased HCT, but will check pm
   HCT and transfuse if <21.
   -Continue nystatin mouthwash for [**Female First Name (un) 188**]+ sputum given his high dose
   steroids.  Day [**3-7**]
   - Atrovent nebs PRN  (albuterol nebs held due to tachycardia)
   - CXR daily
   -Plasmapheresis, dose 5/7 yesterday, then tomorrow and Friday.
   -Prednisone 60mg po daily,
    -Cyclophosphamide-125 po. Rheumatology will write for this.  No MESNA
   needed, will give po H20 before dose
   - f/u Rheum recs
   # Acute renal failure: [**12-29**] C-ANCA vasculitis, confirmed with renal
   biopsy.  Creatinine continues to trend down, 4.3 this morning, BUN is
   also finally down to 135, and he has maintained good urine output.  As
   a note, plasmapheresis in cases of severe Wegeners has been shown to
   improve kidney outcomes, though not mortality.
   - Foley in place , strict I&O,we have been diuresing him well, with ?
   liters off in the past 5 days.  We will continue to diurese with goal
   -500cc to -1L, using Lasix 20 IV prn.
    -pink tinged urine, improved. Will continue to monitor visually.  If
   worsening will get U/A
     -On Sevelamer, for hyperphos. Phos 4.0, will continue for at least
   one more day.
   -          Avoid nephrotoxic agents
   -          on Atovaqone for PCP prophylaxis, avoiding Bactrim due to
   renal toxicity.
    #Hypocalcemia: [**12-29**] plasmapheresis (containing citrate) and to
   underlying renal failure
   -follow ionized Ca, more accurate given citrate used in pheresis.
   Received 4gIV overnight, will re-check PM ionized Calcium and replete
   as needed.  On days when he has pheresis, ionized CA needs to be drawn
   4 hours after the end of pheresis to be accurate.
   -on SS replacement.
   -EKGs have been unchanged.
   # Tachycardia:  Continued tachycardia, atrial flutter.  Hemodynamically
   stable.  ECHO showed mild LV septal [**Last Name (LF) 4197**], [**First Name3 (LF) 300**] 45-50%.  Possibly
   secondary to large volume shifts (retaining total body fluid with renal
   failure, with large volume load putting stress on atria.)
   -Increased lopressor to 75mg po tid yesterday.  Will continue to
   monitor on tele.  If needed, could start a second rate controlling
   [**Doctor Last Name **].
   # Anemia: Low HCT originally due to pulmonary hemorrhage,  chronic
   inflammatory disease, renal failure, and diffuse alveolar hemorrhage.
   HCT have been variable over the weekend despite no transfusion.
   Variation may be due to lab variability, or to fluid shifts with
   plasmapheresis.  Will monitor as long as he is hemodynamically stable.
   -qday HCT, transfuse if <21.  21.3 today, will check PM and transfuse 1
   unit if <21.
    - Type and screen, cross-matched
    -  Blood consent obtained
     -  Stool guaiac negative thus far, continue to check all stools.
   #Hyperglycemia- non-diabetic, likely [**12-29**] high dose steroids.
   -SSI plus standing 3units, well controlled.
   # FEN: Taking PO. Will replete lytes PRN.
   # Access: Dialysis line in his neck, with pigtail.
   # PPx: Pneumoboots, Pantoprazole PO daily, RISS, bowel regimen
    # Code: FULL, confirmed with pt with son present ([**2199-7-6**])
   #Dispo: to floor if it is possible to do pheresis outside of the ICU.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-07-16 10:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   HPI:
   24 Hour Events:
 EKG - At [**2199-7-15**] 12:02 PM
   Requiring lower FiO2 (6 L nc), maintaining SaO2 >90%.
   Tolerated plasmaphoresis yesterday.
   Continues net diuresis, tolerated well.
   No further hemoptysis.
   Up in chair, excellent spirits.  Appropriate.  Joking with family.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2199-7-15**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-7-16**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 114 (100 - 142) bpm
   BP: 136/74(88) {91/44(55) - 138/86(96)} mmHg
   RR: 21 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.3 kg (admission): 68.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,534 mL
                                                                    902 mL
   PO:
                                                                  1,220 mL
                                                                    750 mL
   TF:
   IVF:
                                                                    314 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  2,565 mL
                                                                  1,690 mL
   Urine:
                                                                  2,565 mL
                                                                  1,690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,031 mL
                                                                   -788 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, date, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.2 g/dL
   200 K/uL
   92 mg/dL
   4.3 mg/dL
   32 mEq/L
   3.6 mEq/L
   135 mg/dL
   103 mEq/L
   145 mEq/L
   21.3 %
   8.4 K/uL
        [image002.jpg]
                             [**2199-7-11**]  09:59 PM
                             [**2199-7-12**]  04:37 AM
                             [**2199-7-12**]  07:41 PM
                             [**2199-7-13**]  05:22 AM
                             [**2199-7-13**]  04:05 PM
                             [**2199-7-14**]  04:00 AM
                             [**2199-7-14**]  03:55 PM
                             [**2199-7-15**]  04:07 AM
                             [**2199-7-15**]  08:17 PM
                             [**2199-7-16**]  04:05 AM
   WBC
   11.0
   11.0
   12.2
   9.8
   8.4
   Hct
   23.7
   21.6
   25.0
   22.6
   26.7
   24.0
   27.0
   23.0
   25.1
   21.3
   Plt
   185
   170
   200
   217
   200
   Cr
   6.2
   6.1
   5.6
   5.2
   5.1
   5.0
   4.4
   4.2
   4.3
   Glucose
   146
   82
   145
   79
   237
   117
   88
   208
   92
   Other labs: PT / PTT / INR:14.5/29.8/1.2, Alk Phos / T Bili:/0.5,
   Differential-Neuts:94.1 %, Lymph:3.2 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:153 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR ([**2199-7-16**]) diffuse pulmonary infiltrates, but improving.
   Assessment and Plan
 VASCULITIS -- Wegener's Granulomatosis.  Good response.  Continue
   steroids, cytoxan.  Complete Plasmaphoresis course.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) -- Pulmonary-Renal
   syndrome; predominately alveolar hemorrhage.  Improving.  Reduced
   oxygen requirement.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) -- continue gradual
   improvement.  Monitor.  No acute indication for dialysis.
 HYPOCALCEMIA (LOW CALCIUM) -- replete, monitor ionized Ca++
 ATRIAL FLUTTER (AFLUTTER) -- acceptable rate control on lopressor.
   Monitor.
 TACHYCARDIA -- improved.  Monitor.
 ANEMIA -- No further clinical evidence for bleeding, CXR improving.
   Transfuse to Hct >21.
 HYPERGLYCEMIA -- contributed by high dose steroids.  Monitor, use
   insullin to maintain <150.
   ICU Care
   Nutrition: PO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2199-7-7**] 06:48 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes